US08258169B2
To a solution of O-Methyl-N-[1-methyl-3-(2,4,6-trichloro-phenyl)-propyl]-hydroxylamine (0.6 g, 2.1 mmol) prepared as described in example P23d, in dichloromethane (6 ml), was added triethylamine (0.73 ml, 5.2 mmol) followed by drop wise addition of a solution of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (0.415 g, 2.1 mmol) in dichloromethane at 0° C. After complete addition of acid chloride, the reaction mixture was stirred for 18 hours at ambient temperature. When the TLC confirmed completion of the reaction, the reaction mass was diluted with water and extracted with dichloromethane (3×60 ml). The combined dichloromethane layer was washed with 2N HCl, followed by sat NaHCO3 then water and finally brine solution, dried over sodium sulfate and solvent was evaporated off under reduced pressure. The resulting crude mass was purified by column chromatography using 60-120μ mesh silica gel and product collected at 30% ethyl acetate in hexane as eluent to give 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid methoxy-[1-methyl-3-(2,4,6-trichloro-phenyl)-propyl]amide (0.53 g, 57%) as a gum like mass.

reactant | O-Methyl-N-[1-methyl-3-(2,4,6-trichloro-phenyl)-propyl]-hydroxylamine | 2.1 mmol, 0.6 g | CONC(CCC1=C(C=C(C=C1Cl)Cl)Cl)C | C11H14Cl3NO
reactant | triethylamine | 5.2 mmol, 0.73 ml | C(C)N(CC)CC | C6H15N
reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 2.1 mmol, 0.415 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid methoxy-[1-methyl-3-(2,4,6-trichloro-phenyl)-propyl]amide | 0.53 g, 57% | CON(C(=O)C=1C(=NN(C1)C)C(F)F)C(CCC1=C(C=C(C=C1Cl)Cl)Cl)C | C17H18Cl3F2N3O2
